US05132310
rac-[2-(Benzo[b]thiophen-3-yl)ethynyl]-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol.
A mixture of 4.6 g (20 mmol) of rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol, 6.4 g (30 mmol) of 3-bromobenzo[b]thiophene, 0.4 g of triphenylphosphine, 95 mg of cuprous iodide, 6 ml of triethylamine and 150 ml of acetonitrile was degassed with argon for 15 minutes. Palladium acetate, 110 mg, was then added and stirring at room-temperature was continued for 4 days. The solvent was evaporated under reduced pressure and the residue was partitioned between methylene chloride and saturated aqueous sodium bicarbonate solution. The organic layer was separated, dried over sodium sulfate and evaporated. The residue was chromatographed over 200 g of silica gel using methylene chloride/hexane 1:1(v/v) for elution. Crystallization of the combined clean fractions from ether/hexane yielded 3.3 g (45.5%) of colorless crystals with m.p. 123°-124° C. A lower melting modification with m.p. 88°-91° C. was also observed.

reactant | rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | 20 mmol, 4.6 g | C(#C)C1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C15H18O2
reactant | 3-bromobenzo[b]thiophene | 30 mmol, 6.4 g | BrC=1C2=C(SC1)C=CC=C2 | C8H5BrS
reactant | triphenylphosphine | 0.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | rac-[2-(Benzo[b]thiophen-3-yl)ethynyl]-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | 3.3 g, 45.5% | S1C2=C(C(=C1)C#CC1(OC3=C(CC1)C(=C(C(=C3C)C)O)C)C)C=CC=C2 | C23H22O2S
